US04317779
A 250 ml round bottom flask equipped with a magnetic stirrer and reflux condenser was charged with 50 g (0.15 mole) of alpha-methylthiostearic acid, 60 ml of 1,2-dichloroethane, and 25 ml of methanol. The resulting mixture was stirred and warmed with a heating mantle while 0.6 ml of concentrated sulfuric acid was added. It was then heated to reflux overnight. The reaction mixture was cooled, placed in a separatory funnel and washed three times with 10% aqueous sodium chloride solutions. The organic solution was dried over anhydrous magnesium sulfate and evaporated to dryness. The product was further dried under high vacuum and consisted of 50.5 g (97% yield) of methyl alpha-methylthiostearate.

reactant | alpha-methylthiostearic acid | 0.15 mole, 50 g | CC(C(=S)O)CCCCCCCCCCCCCCCC | C19H38OS
reactant | 1,2-dichloroethane | 60 ml | ClCCCl | C2H4Cl2
reactant | sulfuric acid | 0.6 ml | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 25 ml | CO | CH4O
product | methyl alpha-methylthiostearate | 50.5 g, 97% yield | CC(C(=S)OC)CCCCCCCCCCCCCCCC | C20H40OS
